US08404839B2
Step 1: 6-Acetoxy-4-(3-chloro-2-fluoroanilino)-7-methoxyquinazoline hydrochloride
6-Acetoxy-7-methoxyquinazolin-4-one (International Patent Application WO 96/15118, Example 39 thereof; 21.4 kg, 89.3 mol) was suspended in toluene (150 kg). To this was added N-ethyldiisopropylamine (13.3 kg, 103 mol). The brown suspension was heated to 70° C. then phosphorus oxychloride (36.0 kg, 228 mol) was charged. The reaction mixture was stirred at 70° C. for 5 hours. Further toluene (84.0 kg) was added followed by 3-chloro-2-fluoroaniline (14.88 kg, 102 mol). The reaction mixture was stirred at 70° C. for 2 hours during which time a solid precipitated. The suspension was cooled to 25° C. and held at this temperature for 93 hours. The reaction mixture was filtered and the filter cake washed with toluene (2×55.5 kg). The cake was further washed with a mixture of ethanol (24.5 kg) and water (32.0 kg) twice, then ethanol (50.5 kg) twice and the solid then dried under vacuum to give the title product as a beige solid (33.4 kg, 78%); 1H NMR: 2.37 (s, 3H), 4.00 (s, 3H), 7.34 (ddd, 1H), 7.48 (s, 1H), 7.52 (ddd, 1H), 7.61 (ddd, 1H), 8.62 (s, 1H), 8.86 (s, 1H); Mass Spectrum: 362.4, 364.4.

reactant | 6-Acetoxy-7-methoxyquinazolin-4-one | C(C)(=O)OC=1C=C2C(NC=NC2=CC1OC)=O | C11H10N2O4
reactant | N-ethyldiisopropylamine | 103 mol, 13.3 kg | C(C)N(C(C)C)C(C)C | C8H19N
reactant | phosphorus oxychloride | 228 mol, 36.0 kg | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-chloro-2-fluoroaniline | 102 mol, 14.88 kg | ClC=1C(=C(N)C=CC1)F | C6H5ClFN
solvent | toluene | 150 kg | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 84.0 kg | C1(=CC=CC=C1)C | C7H8
product | 6-Acetoxy-4-(3-chloro-2-fluoroanilino)-7-methoxyquinazoline hydrochloride | 33.4 kg, 78% | Cl.C(C)(=O)OC=1C=C2C(=NC=NC2=CC1OC)NC1=C(C(=CC=C1)Cl)F | InChI=1S/C17H13ClFN3O3.ClH/c1-9(23)25-15-6-10-13(7-14(15)24-2)20-8-21-17(10)22-12-5-3-4-11(18)16(12)19;/h3-8H,1-2H3,(H,20,21,22);1H
